US04272449
To a mixture of 2.32 g (11 mmol) of 2-(4-chlorophenyl)-3-methylbutyramide in methylene chloride is added, at room temperature, 1.78 g (12 mmol) of trimethyloxonium tetrafluoroborate. After stirring overnight under nitrogen, the resulting solution is poured onto an ice-cold mixture of ether and aqueous sodium bicarbonate. The aqueous layer is discarded, and the ethereal layer is washed with cold water and dried over sodium sulfate. Filtration and concentration in vacuo affords methyl 2-(4-chlorophenyl)-3-methylbutanimidate.

reactant | 2-(4-chlorophenyl)-3-methylbutyramide | 11 mmol, 2.32 g | ClC1=CC=C(C=C1)C(C(=O)N)C(C)C | C11H14ClNO
reactant | trimethyloxonium tetrafluoroborate | 12 mmol, 1.78 g | F[B-](F)(F)F.C[O+](C)C
reactant | ether | CCOCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | methyl 2-(4-chlorophenyl)-3-methylbutanimidate | ClC1=CC=C(C=C1)C(C(OC)=N)C(C)C | C12H16ClNO
